US09315462B2
Step 1: Synthesis of 2-(4-(1H-tetrazol-5-yl)phenyl)-6-methoxy-3-methylquinoline
To a mixture of 2-chloro-6-methoxy-3-methylquinoline (100 mg, 0.482 mmol), 4-(1H-tetrazol-5-yl)phenylboronic acid (91.2 mg, 0.482 mmol), K2CO3 (199 mg, 1.45 mmol), and PdCl2(dppf) (17.6 mg, 0.024 mmol) was added 7 mL of DEGME and 3 mL of H2O under argon. The mixture was stirred at 150° C. in a microwave reactor for 1.5 hours. The crude mixture was diluted with 1N NaOH (10 mL) and slowly acidified to a pH of 4.0 using conc. HCl. The solids were filtered to yield 128 mg (84% yield) of desired product.

reactant | 2-chloro-6-methoxy-3-methylquinoline | 0.482 mmol, 100 mg | ClC1=NC2=CC=C(C=C2C=C1C)OC | C11H10ClNO
reactant | 4-(1H-tetrazol-5-yl)phenylboronic acid | 0.482 mmol, 91.2 mg | N1N=NN=C1C1=CC=C(C=C1)B(O)O | C7H7BN4O2
reactant | K2CO3 | 1.45 mmol, 199 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | DEGME | 7 mL | COCCOCCO | C5H12O3
reactant | HCl | Cl | ClH
solvent | NaOH | 1N, 10 mL | [OH-].[Na+]
catalyst | PdCl2(dppf) | 0.024 mmol, 17.6 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | H2O | 3 mL | O | H2O
product | 2-(4-(1H-tetrazol-5-yl)phenyl)-6-methoxy-3-methylquinoline | 128 mg, 84% yield | N1N=NN=C1C1=CC=C(C=C1)C1=NC2=CC=C(C=C2C=C1C)OC | C18H15N5O
